US07202252B2
By the method of Example 2, 4-fluorophenylacetic acid is reacted with 5,6-diamino-1-[2-(4-nitrophenyl)ethyl]-3-propyluracil (6) to yield 8-(4-fluorobenzyl)-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine. By methods well known in the art, 8-(4-fluorobenzyl)-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine is reduced with hydrazine hydrate or hydrogen gas in the presence of a palladium catalyst to yield 3-[2-(4-aminophenyl)ethyl]-8-(4-fluorobenzyl)-1-propylxanthine.

reactant | 8-(4-fluorobenzyl)-3-[2-(4-nitrophenyl)ethyl]-1-propylxanthine | FC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CCC)=O)CCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C23H22FN5O4
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
catalyst | palladium | [Pd] | Pd
product | 3-[2-(4-aminophenyl)ethyl]-8-(4-fluorobenzyl)-1-propylxanthine | NC1=CC=C(C=C1)CCN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)F)=O)CCC)=O | C23H24FN5O2
